US07579368B2
A solution of 1-tert-butyloxycarbonyl-piperazine (4.581 mmol) and diisopropylethylamine (5.09 mmol) in methylene chloride (5 mL) was added to a 40 mL vial. 3,5-Dimethyl-isoxazole-4-carbonyl chloride (5.09 mmol) was added to the vial and the reaction was shaken overnight at room temperature. When the reaction was complete, it was diluted with methylene chloride (5 mL) and washed with 4 mL of 1 N hydrochloric acid followed by 4 mL of 10% potassium carbonate. The organic layer was concentrated in vacuo. The crude residue was dissolved in 5 mL of dioxane and 5 mL of 4M hydrochloric acid in dioxane. The reaction mixture was shaken overnight at room temperature then centrifuged. The supernatant was removed and the remaining solid was shaken with hexanes then centrifuged. The supernatant was removed, and the solids were collected and dried in vacuo to give (3,5-dimethyl-isoxazol-4-yl)-piperazin-1-yl-methanone. LR-MS: 210.2 [(M+H)+].

reactant | 1-tert-butyloxycarbonyl-piperazine | 4.581 mmol | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | diisopropylethylamine | 5.09 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,5-Dimethyl-isoxazole-4-carbonyl chloride | 5.09 mmol | CC1=NOC(=C1C(=O)Cl)C | C6H6ClNO2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (3,5-dimethyl-isoxazol-4-yl)-piperazin-1-yl-methanone | CC1=NOC(=C1C(=O)N1CCNCC1)C | C10H15N3O2
